US08623889B2
Step 5: 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine
7-Bromoisoquinolin-3-amine (15.0 g, 67.4 mmol), 5-fluoro-2-methylphenylboronic acid (12.4 g, 81.0 mmol), Pd(dppf)Cl2 (2.76 g, 3.38 mmol) and Cs2CO3 (26.4 g, 81.0 mmol) in MeCN/H2O (10:1, 150 mL) was stirred at 120° C. for 6 h under N2. After the reaction mixture was filtered, the filtrate was concentrated and purified by chromatography on silica gel to give the desired product (13.5 g, 79.4%). LCMS (ESI): RT (min)=0.869, M+H+=252.8, method=A. 1H NMR (400 MHz, DMSO-d6) δ 8.84 (s, 1H), 7.75 (s, 1H), 7.55 (d, J=8.8 Hz, 1H), 7.44 (d, J=8.4 Hz, 1H), 7.34-7.30 (m, 1H), 7.11-7.07 (m, 2H), 6.64 (s, 1H), 6.00 (s, 2H), 2.22 (s, 3H).

reactant | 7-Bromoisoquinolin-3-amine | 67.4 mmol, 15.0 g | BrC1=CC=C2C=C(N=CC2=C1)N | C9H7BrN2
reactant | 5-fluoro-2-methylphenylboronic acid | 81.0 mmol, 12.4 g | FC=1C=CC(=C(C1)B(O)O)C | C7H8BFO2
reactant | Cs2CO3 | 81.0 mmol, 26.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN H2O | 150 mL | CC#N.O
catalyst | Pd(dppf)Cl2 | 3.38 mmol, 2.76 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 13.5 g, 79.4% | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
